US06069145
1-tert-Butoxycarbonyl-3-oxopiperazine (7.5 g) was dissolved in dry DMF (250 ml) and potassium tert-butoxide (8.4 g) was added. The mixture was stirred at ambient temperature for 30 minutes, then iodoethane (3.3 ml) added, and stirring continued at the same temperature for 24 hours. A further equal portion of iodoethane was added and stirring continued for 24 hours. Solvent was evaporated, and the residue partitioned between ethyl acetate and water. The organic layer was washed with water, evaporated, and purified by chromatography on silica, using as eluant a gradient increasing in polarity from 0 to 25% isopropanol in iso-hexane. Relevant fractions were combined and evaporated to give 1-tert-butoxycarbonyl-4-ethyl-3-oxopiperazine (6.0 g).

reactant | 1-tert-Butoxycarbonyl-3-oxopiperazine | 7.5 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | potassium tert-butoxide | 8.4 g | CC(C)([O-])C.[K+]
reactant | iodoethane | 3.3 ml | ICC | C2H5I
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 1-tert-butoxycarbonyl-4-ethyl-3-oxopiperazine | 6.0 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC)=O | C11H20N2O3
